US05055477
A solution of methyl (4-benzyloxy-1,3-dimethyl- pyrazol-5-yl)acetate (2.5 g, 9.1 mmol) and methyl formate (15 g, 250 mmol) in anhydrous DMF (10 ml) was added dropwise to a suspension of sodium hydride (60 % dispersion in oil) (0.55 g, 13.8 mmol) in anhydrous DMF (5 ml), while the temperature being maintained below 10° C. by cooling on ice. After stirring at room temeprature for 2 hous, the low boiling substances were remvoed under reduced pressure. To the residue was added potassium carbonate (2.5 g, 18.1 mmol), dimethyl sulfate (2.3 g, 18.2 mmol), and DMF (5 ml) under ice-cooling. After stirring at room temeprature for 3 hours, the mixture was distilled under reduced pressure to remove low boiling substances. The residue was diluted with ethyl acetate, successively washed with water, and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was chromatographed over silica gel (eluent; ethyl acetate/n-hexane=1:1) to obtain (e)-methyl 2-(4-benzyloxy-1,3-dimethylpyrazol -5-yl)-3-methoxyacrylate (compound No. 1 in the Table 1) as a clear oil (2.1 g, 73%). Corresponding compound in Z-form (compound No. 2 in the Table 1) was also produced by the above reaction and recovered from the column.

reactant | methyl (4-benzyloxy-1,3-dimethyl- pyrazol-5-yl)acetate | 9.1 mmol, 2.5 g | C(C1=CC=CC=C1)OC=1C(=NN(C1CC(=O)OC)C)C | C15H18N2O3
reactant | methyl formate | 250 mmol, 15 g | C(=O)OC | C2H4O2
reactant | sodium hydride | 13.8 mmol, 0.55 g | [H-].[Na+]
reactant | potassium carbonate | 18.1 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 18.2 mmol, 2.3 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (e)-methyl 2-(4-benzyloxy-1,3-dimethylpyrazol -5-yl)-3-methoxyacrylate | C(C1=CC=CC=C1)OC=1C(=NN(C1/C(/C(=O)OC)=C\OC)C)C | C17H20N2O4
